US07745641B2
In a similar manner to Step 3 of Example 16, 4-methoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (3.55 g, 11.9 mmol) was dissolved in THF (140 mL), and the solution was treated with TMEDA (4.00 mL, 26.2 mmol), sec-butyllithium-hexane solution (0.99 mol/L, 26.4 mL, 26.2 mmol) and iodine (3.62 g, 14.3 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=9/1, 7/3) to obtain 4-methoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (3.88 g, yield 77%).

reactant | 4-methoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 11.9 mmol, 3.55 g | COC1=C2C(N(C(C2=CC=C1)=O)C(C)(C1=CC=CC=C1)C)O | C18H19NO3
reactant | TMEDA | 26.2 mmol, 4.00 mL | CN(C)CCN(C)C | C6H16N2
reactant | sec-butyllithium hexane | 26.2 mmol, 0.99 mol/L, 26.4 mL | C(C)(CC)[Li].CCCCCC
reactant | iodine | 14.3 mmol, 3.62 g | II | I2
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | 4-methoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 3.88 g, yield 77% | COC1=C2C(N(C(C2=C(C=C1)I)=O)C(C)(C1=CC=CC=C1)C)O | C18H18INO3
